US04812585
In 50 ml of toluene were dissolved 7.31 g (0.05 mole) of 6-methoxyhexanoic acid, 4.43 g (0.065 mole) of furan and 14.39 g (0.06 mole) of dichloroacetic anhydride. To the resulting solution was added 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 3 hours. After completion of the reaction, the reaction solution was cooled and washed successively with 5% aqueous sodium carbonate solution and water. The organic layer was concentrated under reduced pressure and the resulting concentrated residue was then purified by silica gel-filled column chromatography to obtain 8.83 g of 2-(6-methoxyhexanoyl)furan.

reactant | 6-methoxyhexanoic acid | 0.05 mole, 7.31 g | COCCCCCC(=O)O | C7H14O3
reactant | furan | 0.065 mole, 4.43 g | O1C=CC=C1 | C4H4O
reactant | dichloroacetic anhydride | 0.06 mole, 14.39 g | ClC(C(=O)OC(C(Cl)Cl)=O)Cl | C4H2Cl4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-methoxyhexanoyl)furan | 8.83 g, Yield: 90% | COCCCCCC(=O)C=1OC=CC1 | C11H16O3
